US09120749B2
1-(6-bromo-4-((4-((dimethylamino)methyl)phenyl)amino)quinolin-3-yl)propan-1-one
Following general procedure C, 1-(6-bromo-4-chloroquinolin-3-yl)propan-1-one (750 mg, 2.51 mmol) was reacted with 4-(dimethylaminomethyl)aniline (377 mg, 2.51 mmol) to afford the desired product (889 mg, 86%) as a yellow solid. APCI MS m/z 412 [C21H22BrN3O+H]+.

reactant | 1-(6-bromo-4-chloroquinolin-3-yl)propan-1-one | 2.51 mmol, 750 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(CC)=O)Cl | C12H9BrClNO
reactant | 4-(dimethylaminomethyl)aniline | 2.51 mmol, 377 mg | CN(C)CC1=CC=C(N)C=C1 | C9H14N2
product | 1-(6-bromo-4-((4-((dimethylamino)methyl)phenyl)amino)quinolin-3-yl)propan-1-one | 889 mg, 86% | BrC=1C=C2C(=C(C=NC2=CC1)C(CC)=O)NC1=CC=C(C=C1)CN(C)C | C21H22BrN3O
